US07405221B2
2-Methylsulfonyl-4-(2,4-dichlorophenyl)-5-(4-chlorophenyl)pyrimidine from Reference Example 3 was reacted with 3-chlorophenol according to the procedure described in Example 74 to afford 2-(3-chlorophenyloxy)-4-(2,4-dichlorophenyl)-5-(4-chlorophenyl)pyrimidine: HPLC/MS: m/e=461 (M++1); Rt=4.72 min; 1H-NMR 400 MHz (CDCl3): δ 7.00-7.12. (m, 2H), 7.11-7.18 (m, 2H), 7.20-7.30 (m, 7H), 8.60 (s, 1H).

reactant | 2-Methylsulfonyl-4-(2,4-dichlorophenyl)-5-(4-chlorophenyl)pyrimidine | CS(=O)(=O)C1=NC=C(C(=N1)C1=C(C=C(C=C1)Cl)Cl)C1=CC=C(C=C1)Cl | C17H11Cl3N2O2S
reactant | 3-chlorophenol | ClC=1C=C(C=CC1)O | C6H5ClO
product | 2-(3-chlorophenyloxy)-4-(2,4-dichlorophenyl)-5-(4-chlorophenyl)pyrimidine | ClC=1C=C(C=CC1)OC1=NC=C(C(=N1)C1=C(C=C(C=C1)Cl)Cl)C1=CC=C(C=C1)Cl | C22H12Cl4N2O
